US06900213B2
4-Bromo-2,6-dimethylanisole (5 g, 1 eq, Acros) in tetrahydrofuran (100 mL) was cooled to −78° C. under nitrogen. N-Butyl lithium in hexane (1.6 M, 19 mL, 1.3 eq) was added dropwise over 10 min. The mixture was stirred at −78° C. for 1 h. Tributylborate (31 mL, 5 eq) was added to the solution and stirred at −78° C. for 1 h. The mixture was allowed to warm to room temperature and stirred for 16 h. Reaction was quenched with hydrochloric acid (1M, 20 mL). The solvent was evaporated and the residual aqueous solution was acidified to pH 1 using concentrated hydrogen chloride. The mixture was extracted with diethyl ether (2×100 mL). The combined organic phase was extracted with aqueous sodium hydroxide (1M, 2×100 mL). The combined aqueous phase was acidified with concentrated hydrogen chloride to pH 1. The resulting precipitates were collected by filtration to afford 3,5-dimethyl-4-methoxybenzene boronic acid (3.43 g, 82%) as a white solid: 1H NMR (CDCl3) five peaks for 2H: 7.87 (s), 7.60 (weak s), 7.85 (s), 7.26 (s) 6.98 (weak s); five signal for 3H: 3.80 (s), 3.76 (weak s), 3.74 (s), 3.69 (weak s), 3.67 (weak s); four signals for 6H: 2.40 (s), 2.54 (weak s), 2.51 (s), 2.25 (weak s). (I.b.) 3,5-Dimethyl-benzene boronic acid.

reactant | 4-Bromo-2,6-dimethylanisole | 5 g, 1 eq | BrC1=CC(=C(C(=C1)C)OC)C | C9H11BrO
reactant | hexane | 1.6 M, 19 mL, 1.3 eq | CCCCCC | C6H14
reactant | Tributylborate | 31 mL, 5 eq | C(CCC)OB(OCCCC)OCCCC | C12H27BO3
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3,5-dimethyl-4-methoxybenzene boronic acid | 3.43 g, 82% | CC=1C=C(C=C(C1OC)C)B(O)O | C9H13BO3
